US05679696
A solution of 4-amino-3,5-dichloropyridine (0.46 g) in dry dimethylformamide (20 mL) is treated with sodium hydride (0.23 g of a 60% dispersion in mineral oil; 2.8 mmol) and the mixture is stirred for 20 minutes. It is then treated with a solution of 3-cyclopentyloxy-4-(methylthio)benzoyl chloride (0.76 g; that is prepared as described in Reference Example 20 in dimethylformamide (10 mL) and stirred at 60° C. for 2 hours. The solution is then concentrated and the resulting residue is partitioned between water (30 mL) and ethyl acetate (50 mL). The aqueous layer is extracted with ethyl acetate (50 mL) and the combined organic layers are dried, concentrated, and subjected to flash chromatography on silica gel, eluting with a mixture of diethyl ether and pentane (1:1 v/v), to give N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(methylthio)benzamide (0.7 g) in the form of a white crystalline solid, m.p. 157°-159° C. [NMR (CDCl3):8.57 (s,2H), 7.69 (bs, 1H), 7.47 (dd, 1H ,J=8 Hz,J=2 Hz), 7.43 (d, 1 H ,J=2 Hz), 7.17 (d, 1 H,J=8 Hz), 4.95 (m,1H), 246 (s,3H), 1.98°-1.6(m,8H); Elemental analysis: C,54.0; H,4.5; N,7.0; Cl,17.8%; calculated: C,54.4; H,4.6; N,7.05; Cl,17.85%].

reactant | 4-amino-3,5-dichloropyridine | 0.46 g | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-cyclopentyloxy-4-(methylthio)benzoyl chloride | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1SC | C13H15ClO2S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(3,5-dichloropyrid-4-yl)-3-cyclopentyloxy-4-(methylthio)benzamide | 0.7 g | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)SC)OC1CCCC1)=O)Cl | C18H18Cl2N2O2S
